US08044041B2
6-Bromo-4-chloro-2H-phthalazin-1-one
A mixture of 6-bromo-2,3-dihydro-phthalazine-1,4-dione (42.8 g, 178 mmol) in POCl3 (300 mL) was heated at reflux for 3 h. The mixture was allowed to cool and concentrated. The residue was taken up in EtOAc (400 mL) and water (200 mL), and neutralized with sodium bicarbonate. The layers were separated, aqueous layer was extracted with EtOAc (3×200 mL), and combined organic layers were dried over anhydrous sodium sulfate and concentrated. The residue was dissolved in dioxane (300 mL) and 2N NaOH (250 mL). The mixture was heated at 50° C. for 30 min, poured into water (3 L), and stirred for 15 min. Solid was filtered and dried in vacuum at room temperature to give title compound as a greenish solid (12.0 g, 24.3%). M/z (M+1)=259.32.

reactant | 6-bromo-2,3-dihydro-phthalazine-1,4-dione | 178 mmol, 42.8 g | BrC=1C=C2C(NNC(C2=CC1)=O)=O | C8H5BrN2O2
reactant | POCl3 | 300 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | 6-Bromo-4-chloro-2H-phthalazin-1-one | 12.0 g, 24.3% | BrC=1C=C2C(=NNC(C2=CC1)=O)Cl | C8H4BrClN2O
